US05561101
3-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]-2-pyridinecarboxylic acid (Table E, cpd. no. 64)
30.3 g of KMnO4 and 32.3 g of NaHCO3 are suspended in 700 ml of water and 57 g of lithium 3-[(4,6-dimethoxy-2-pyrimidinyl)hydroxymethyl]-2-pyridine carboxylate is added with stirring. The reaction mixture is refluxed for 4 hrs and suction filtered hot. The filtrate is cooled over ice water and audified with conc. HCl (60 ml). The precipitated solid is filtered and dried in vacuo at 50° to give the title compound m.p. 159°-161° C.

reactant | KMnO4 | 30.3 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaHCO3 | 32.3 g | C(=O)(O)[O-].[Na+]
reactant | lithium 3-[(4,6-dimethoxy-2-pyrimidinyl)hydroxymethyl]-2-pyridine carboxylate | 57 g | COC1=NC(=NC(=C1)OC)C(C=1C(=NC=CC1)C(=O)[O-])O.[Li+]
solvent | water | 700 ml | O | H2O
product | 3-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]-2-pyridinecarboxylic acid | COC1=NC(=NC(=C1)OC)C(=O)C=1C(=NC=CC1)C(=O)O | C13H11N3O5
